US08119324B2
90 g of p-hydroxyphenyl methacryl anilide (P-3-1), 30 g of p-t-butoxystyrene (P-3-2), 9 g of azobisisobutyronitrile, and 5 g of 2,4-diphenyl-4-methyl-1-pentene were dissolved in methanol. The mixture was polymerized under refluxing (63° C.) for eight hours. The polymer solution was purified by reprecipitation using a methanol/water mixture, then using an isopropyl alcohol/heptane mixture to obtain a polymer with a molar ratio of p-hydroxyphenyl methacrylanilide/p-t-butoxystyrene=70/30, having an Mw of 7000 and an Mw/Mn of 1.77. This polymer is designated as a resin (c).

reactant | p-t-butoxystyrene | 30 g | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | azobisisobutyronitrile | 9 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 2,4-diphenyl-4-methyl-1-pentene | 5 g | C1(=CC=CC=C1)C(=C)CC(C)(C)C1=CC=CC=C1 | C18H20
reactant | methanol | CO | CH4O
product | p-hydroxyphenyl methacrylanilide p-t-butoxystyrene | OC1=CC=C(NC(C(=CC2=CC=CC=C2)C)=O)C=C1.C(C)(C)(C)OC1=CC=C(C=C)C=C1 | InChI=1S/C16H15NO2.C12H16O/c1-12(11-13-5-3-2-4-6-13)16(19)17-14-7-9-15(18)10-8-14;1-5-10-6-8-11(9-7-10)13-12(2,3)4/h2-11,18H,1H3,(H,17,19);5-9H,1H2,2-4H3
